US05028604
1.4 g of 2-indanylacetic acid and 1.9 g of WSC.HCl were added to 15 ml of methylene chloride under ice-cooling. The mixture was stirred for 5 minutes at room temperature. After an addition of 1.3 g of L-thioproline ethyl ester dissolved in 10 ml of methylene chloride, the mixture was stirred for 5 hours. The reaction mixture was washed with water, diluted hydrochloric acid, and saturated sodium hydrogen carbonate in this order. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue thus obtained was purified by silica gel column chromatography to produce 1.45 g of 3-(2-indanylacetyl)-L-thioproline ethyl ester as a colorless oil (yield: 57%).

reactant | 2-indanylacetic acid | 1.4 g | C1(CCC2=CC=CC=C12)CC(=O)O | C11H12O2
reactant | WSC.HCl | 1.9 g | CCN=C=NCCCN(C)C.Cl
reactant | L-thioproline ethyl ester | 1.3 g | C(C)OC([C@H]1NCSC1)=O | C6H11NO2S
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 3-(2-indanylacetyl)-L-thioproline ethyl ester | 1.45 g, yield: 57% | C(C)OC([C@H]1NCSC1C(CC1CCC2=CC=CC=C12)=O)=O | C17H21NO3S
